US08685969B2
A solution of benzyl (3-formyl-2-methylphenyl)carbamate (8.00 g, 29.7 mmol), nitroethane (10.7 ml, 149 mmol), and ammonium acetate (11.5 g, 149 mmol) was heated in an oil bath at 95° C. overnight. The reaction mixture was concentrated under reduced pressure, and the residue was diluted with a mixture of dichloromethane (150 mL) and water (75 mL) and basified with solid sodium bicarbonate slowly. The organic layer was collected, and the aqueous layer was extracted with dichloromethane (2×100 mL). The combined organic layers were dried over anhydrous sodium sulfate. Concentration under reduced pressure followed by purification by flash silica gel chromatography using a mixture of ethyl acetate in hexane (20%-35%-50%-65%-75%) afforded benzyl (2-methyl-3-(2-nitroprop-1-en-1-yl)phenyl)carbamate (5.16 g, 15.8 mmol, 53% yield) as a pale yellow solid.

reactant | benzyl (3-formyl-2-methylphenyl)carbamate | 29.7 mmol, 8.00 g | C(=O)C=1C(=C(C=CC1)NC(OCC1=CC=CC=C1)=O)C | C16H15NO3
reactant | nitroethane | 149 mmol, 10.7 ml | [N+](=O)([O-])CC | C2H5NO2
reactant | ammonium acetate | 149 mmol, 11.5 g | C(C)(=O)[O-].[NH4+]
product | benzyl (2-methyl-3-(2-nitroprop-1-en-1-yl)phenyl)carbamate | 15.8 mmol, 5.16 g, 53% yield | CC1=C(C=CC=C1C=C(C)[N+](=O)[O-])NC(OCC1=CC=CC=C1)=O | C18H18N2O4
